US05891889
Step C: Preparation of Ethyl 4-[3-(methanesulfonylaminomethyl)-benzyl]piperidine-4-carboxylate hydrochloride salt
A solution of ethyl N-tert-butoxycarbonyl-4-[3-(methane-sulfonylaminomethyl)benzyl]piperidine-4-carboxylate (270 mg) in dichloromethane (40 mL) at 0° C. was saturated with hydrogen chloride gas. The resultant solution was sealed with a rubber septum and stirred at room temp. for 2.5 h. The product solution was concentrated under vacuum to provide the title compound

reactant | ethyl N-tert-butoxycarbonyl-4-[3-(methane-sulfonylaminomethyl)benzyl]piperidine-4-carboxylate | 270 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CC1=CC(=CC=C1)CNS(=O)(=O)C | C22H34N2O6S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Ethyl 4-[3-(methanesulfonylaminomethyl)-benzyl]piperidine-4-carboxylate hydrochloride salt | Cl.CS(=O)(=O)NCC=1C=C(CC2(CCNCC2)C(=O)OCC)C=CC1 | InChI=1S/C17H26N2O4S.ClH/c1-3-23-16(20)17(7-9-18-10-8-17)12-14-5-4-6-15(11-14)13-19-24(2,21)22;/h4-6,11,18-19H,3,7-10,12-13H2,1-2H3;1H
